US07851473B2
(3) 4-(4-Phenyl-1,3-thiazol-2-yl)piperidine
To 4-(4-phenyl-1,3-thiazol-2-yl)piperidine dihydrochloride (530 mg, 1.88 mmol) was added an aqueous 1N sodium hydroxide solution (10 ml) and the mixture was extracted with chloroform (50 ml). The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain the desired product (461 mg, 100%) as an oil.

reactant | 4-(4-phenyl-1,3-thiazol-2-yl)piperidine dihydrochloride | 1.88 mmol, 530 mg | Cl.Cl.C1(=CC=CC=C1)C=1N=C(SC1)C1CCNCC1
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | 4-(4-Phenyl-1,3-thiazol-2-yl)piperidine | 461 mg, 100% | C1(=CC=CC=C1)C=1N=C(SC1)C1CCNCC1 | C14H16N2S
